US04405762
3,3-Bis(chloromethyl)oxetane(BCMO, 15.5 g, 0.1 mole) was added, dropwise, to a stirred, refluxing solution of 0.5 ml of concentrated sulfuric acid in 60 ml of water. The mixture was stirred under reflux for 18 hours. The mixture was cooled to 25° and then sodium carbonate (3 g) was added. When gas evolution had ceased, the mixture was extracted with ethylacetate (3×40 ml). The combined ethylacetate extracts were washed in succession with water (40 ml) and saturated sodium chloride solution (40 ml). After drying (anhydrous sodium sulfate), the solution was concentrated, in vacuo, to remove solvent. The oily, solid residue was then washed with n-heptane-methylene chloride (40 ml, 1:1, v/v) and the crystals collected by filtration. Recrystallization from small amounts of methanol gave pure 2,2-bis(chloromethyl)propane-1,3-diol, 10.8 g (69.7%), mp,75.5°-78.5° (Lit(a) mp,81°). 13C n.m.r. (PPM): 44.94(s,CH2Cl); 46.62(s, C(CH2 --)4); 61.51 (s, CH2OH).

reactant | 3,3-Bis(chloromethyl)oxetane | 0.1 mole, 15.5 g | ClCC1(COC1)CCl | C5H8Cl2O
reactant | sulfuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium carbonate | 3 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 60 ml | O | H2O
product | 2,2-bis(chloromethyl)propane-1,3-diol | ClCC(CO)(CO)CCl | C5H10Cl2O2
